### PR TITLE
feat(NumberTheory/Transcendental/Liouville): irrational reals are LiouvilleWith for 1 < p ≤ 2

### PR DESCRIPTION
**Pull request by localecho**
Closes the gap noted in this file's module doc — the reverse implication for 1 < p ≤ 2 was flagged 'not formalized yet' since 2021. Proved via Dirichlet approximation (Real.infinite_rat_abs_sub_lt_one_div_den_sq_of_irrational) plus a finite-fiber argument on denominators, rather than continued fractions directly.

----

Formalized with Claude's help, verified by a clean lake build.

Posted about this gap in #new-members first: https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Intro.3A.20Brigham.20Hall.20.3B.20LiouvilleWith.20gap.20for.201.20.3C.20p.20.E2.89.A4.202/near/622672679

### CODE REVIEW

File: Mathlib/NumberTheory/Transcendental/Liouville/LiouvilleWith.lean [hunk 1]
```diff
@@ -66,6 +67,80 @@ theorem liouvilleWith_one (x : ℝ) : LiouvilleWith 1 x := by
...
+  refine ⟨1, ?_⟩
+  rw [Nat.frequently_atTop_iff_infinite]
+  apply Set.Infinite.mono _ (infinite_den_of_irrational hx)
+  rintro n ⟨q, hden, hclose⟩
+  have hn' : (0 : ℝ) < n := by have := q.pos; rw [hden] at this; exact_mod_cast this
+  have hqx : (q.num : ℝ) / (n : ℝ) = (q : ℝ) := by
+    rw [← hden]; exact_mod_cast Rat.num_div_den q
+  refine ⟨q.num, ?_, ?_⟩
+  · have := hx.ne_rational q.num (n : ℤ)
+    simpa using this
```
Comment (metakunt) [inline Mathlib/NumberTheory/Transcendental/Liouville/LiouvilleWith.lean]:
```suggestion
  · simpa using hx.ne_rational q.num (n : ℤ)
```

File: Mathlib/NumberTheory/Transcendental/Liouville/LiouvilleWith.lean [hunk 2]
```diff
@@ -66,6 +67,80 @@ theorem liouvilleWith_one (x : ℝ) : LiouvilleWith 1 x := by
...
 
+/-- For fixed denominator `n > 0`, the rationals within `1/n²` of `x` that have
+denominator exactly `n` are finitely many — their numerators are confined to a
+bounded interval around `n * x`. -/
+private theorem finite_den_eq_and_close {x : ℝ} (n : ℕ) (hn : 0 < n) :
+    {q : ℚ | q.den = n ∧ |x - q| < 1 / (q.den : ℝ) ^ 2}.Finite := by
+  apply Set.Finite.of_finite_image (f := fun q : ℚ => q.num)
+  · apply Set.Finite.subset (Set.finite_Icc ⌊(n : ℝ) * x - 1⌋ ⌈(n : ℝ) * x + 1⌉)
+    rintro k ⟨q, ⟨hden, hclose⟩, rfl⟩
+    have hn' : (0 : ℝ) < n := by exact_mod_cast hn
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/Transcendental/Liouville/LiouvilleWith.lean]: `by` and `exact` are inverses
```suggestion
    have hn' : (0 : ℝ) < n := mod_cast hn
```
(this doesn't always work, but hopefully will)
